US07470709B2
Methyl 3,4-diaminobenzoate (1 equivalent), was stirred with ethyl-3-ethoxy-3-iminopropanoate hydrochloride (2 equivalents) in EtOH at 70° C. overnight. The reaction mixture was cooled to room temperature, and the EtOH was removed under reduced pressure. The residue was taken up in water and extracted with CH2Cl2 (3×). The organic extracts were dried over Na2SO4, and the solvent was removed. The solid was triturated with Et2O to yield the desired ethyl 2-[5-(methoxycarbonyl)-benzimidazol-2-yl]acetate as an off-white solid. LC/MS m/z: 263.2 (MH+), Rt 1.80 minutes.

reactant | Methyl 3,4-diaminobenzoate | 1 equivalent | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | ethyl-3-ethoxy-3-iminopropanoate hydrochloride | 2 equivalents | Cl.C(C)OC(CC(=N)OCC)=O
solvent | EtOH | CCO | C2H6O
product | ethyl 2-[5-(methoxycarbonyl)-benzimidazol-2-yl]acetate | COC(=O)C1=CC2=C(N=C(N2)CC(=O)OCC)C=C1 | C13H14N2O4
